US06140332
Step 10.4: 4-(3-Chloro-anilino)-6-(2-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine
6.6 g (25.4 mmol) of 4-chloro-6-(2-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine and 5.34 ml (50.8 mmol) of 3-chloro-aniline in 100 ml of n-butanol are heated at boiling for 1.5 hours. The reaction mixture is cooled, then filtered and washed with diethyl ether and hexane. Flash chromatography (SiO2 ; applied dry; hexane/ethyl acetate [2:1] ethanol/acetone [1:1]) yields the title compound; m.p. 221-222° C.; TLC-Rf =0.3 (hexane/ethyl acetate [1:1]); FAB-MS: (M+H)+ =351.

reactant | 4-chloro-6-(2-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | 25.4 mmol, 6.6 g | ClC=1C2=C(N=CN1)NC(=C2)C2=C(C=CC=C2)OC | C13H10ClN3O
reactant | 3-chloro-aniline | 50.8 mmol, 5.34 ml | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 4-(3-Chloro-anilino)-6-(2-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=C(C=CC=C3)OC)C=CC1 | C19H15ClN4O
